US07598391B2
1,1-Dicyclohexyl-3-[5-(2-piperidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (H) using 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and 1-(2-chloroethyl)-piperidine

reactant | 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)C1CCCCC1 | C17H24N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | 1-(2-chloroethyl)-piperidine | ClCCN1CCCCC1 | C7H14ClN
product | 1,1-Dicyclohexyl-3-[5-(2-piperidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SCCN1CCCCC1)C1CCCCC1 | C23H38N4OS2
